* NMOS common-source bias point — bring-up rung 5.
* VDD --[RD]-- d --[M1: d,g,s=gnd, models/mosfet.va defaults]
* Gate biased at 2.0 V (Vov = Vgs - vto = 2.0 - 0.7 = 1.3 V).
* Self-consistent saturation-region solve: Id = 0.5*kp*(w/l)*Vov^2*(1+lambda*Vds),
*   Vd = VDD - Id*RD  =>  Id ~= 1.745 mA, V(d) ~= 3.255 V (see va-cli's mos_dc_solves_* test).
VDD vdd gnd DC 5.0
VG  g   gnd DC 2.0
RD  vdd d   1000
M1  d   g   gnd mosfet
.op
.end
