* Port-current probe in the frequency domain -- the gate for the charge channel reaching AC.
* The probe's small-signal value is Y(jw)*V(a) = (1/r + jw*cj)*V(a): flat at 1 mA below the
* corner f = 1/(2*pi*r*cj) = 159 Hz, rising at +20 dB/decade above it, reaching 62.8 A at 10 MHz
* (w*cj = 2*pi*1e7*1e-6 = 62.8 S). Verified against QSPICE: 1.002e-3 at 10 Hz, 62.832 at 10 MHz.
* Conduction-only would be flat at 1 mA across the entire sweep -- a ~63000x endpoint divergence,
* and a shape difference rather than an offset, so magnitude and phase both discriminate.
V1 a   gnd DC 0 AC 1
M1 a   gnd out portprobe_rc
.ac dec 5 10 10meg
.end
