* Port-current probe over a parallel R||C -- the displacement-current gate for I(<port>).
* V1 ramps 0 -> 1 V in 1 us, so dV/dt = 1e6 V/s across models/portprobe_rc.va's 1 uF path:
*   displacement = cj*dV/dt = 1.0 A,  conduction = V/r <= 1 mA.
* V(out) reports the probe's value at 1 V per A, so it should run 1.000 -> 1.001 V.
* A probe reporting conduction current only would give 0.000 -> 0.001 V -- ~1000x low, which is
* the point: this gate cannot pass by accident.
* QSPICE reference: V1/R1/C1 with B1 out 0 V=-I(V1) (see xtask's translation table).
V1 s   gnd SIN(0 1 1meg)
Rs s   a   50
M1 a   gnd out portprobe_rc
.tran 2n 2u
.end
