* RC low-pass AC response — T5's AC bring-up circuit.
* The same 1 kOhm / 1 uF network circuits/rc_step.net drives in the time domain (RC = 1 ms),
* now excited by a 1 V small-signal source and swept over frequency instead.
* The source's DC value is 0: an AC analysis linearizes about the operating point, and for a
* purely linear network that point is irrelevant to the answer (the transfer function is the
* same at any bias) -- so the deck states the simplest one rather than an arbitrary bias.
* Expected: H(jw) = V(out)/V(in) = 1/(1 + jwRC), i.e. -3 dB at f = 1/(2*pi*RC) = 159.15 Hz,
*   magnitude rolling off at -20 dB/decade with phase approaching -90 deg.
V1 in  gnd  DC 0 AC 1
R1 in  out  1000
C1 out gnd  1e-6
.ac dec 10 1 1meg
.end
