* Half-wave diode rectifier — bring-up rung 4 (transient).
* Vin --[D1]-- out, with an RC load to ground.
* 1 kHz, 5 V sinusoidal source; observe the rectified, filtered output at `out`.
V1 in  gnd  SIN(0 5 1k)
D1 in  out  diode
R1 out gnd  1000
C1 out gnd  1e-6
.tran 10u 5m
.end
