* Compiled-model tabulated noise -- T5.6's noise_table() lowering gate.
* Two 1k resistors in series across a 1 V source, probed at their junction. Both resolve to the
* *compiled* models/resistor_noise_table.va (via --model), whose analog block declares its
* thermal noise as
*   I(p,n) <+ noise_table({1e2, 4kT/R, 1e3, 4kT/R, 1e6, 4kT/R})
* rather than as white_noise(). Before noise_table() was lowered this deck measured an
* identically-zero spectrum, the same way circuits/resistor_noise_va.net did before T5.3.
*
* Why both resistors are 1k, and not 1k/3k like resistor_noise_va.net: when this deck was
* written a table was const-folded at elaboration and could not follow a per-device resistance
* override, so both devices had to use the model's default R. Since 2026-09-14 a table power is
* a per-instance parameter expression and the override is honoured (models/
* resistor_noise_table.va, note 2; the 1k/3k case is a va-cli unit test) -- the deck keeps 1k/1k
* so its committed QSPICE golden stays exactly what it was.
*
* The two sources add in power and reach the output through the same R1||R2 = 500 ohm, so the
* answer is the textbook 4kT*(R1||R2), flat (nothing here is reactive):
*   S(out) = 4kT*500 ~ 8.289e-18 V^2/Hz
* The sweep runs 10 Hz - 10 MHz while the table only spans 100 Hz - 1 MHz, so every run walks
* all three of the LRM's code paths: clamp below 100 Hz, interpolate in between, clamp above
* 1 MHz. Be clear about what that does and doesn't prove, though -- the table is *flat*, so
* clamping and extrapolating would give the same answer here; this deck pins the absolute level
* and the end-to-end path (frontend -> IR -> codegen -> Interface beta -> adjoint -> harness)
* exactly, while telling the three interpolation rules apart is the job of the shaped tables in
* va-abi's and va-acnoise's unit tests. A flat table is the only shape QSPICE has a native
* primitive to compare against at all, which is why the split of duties is this way round.
*
* Pure R/V, so QSPICE runs it with no model translation at all.
V1 in  gnd  DC 1
R1 in  a    1000
R2 a   gnd  1000
.noise V(a) V1 dec 10 10 10meg
.end
