* Branch self-probe over the same R||C -- the companion gate to portprobe_ramp.net.
* models/selfprobe_rc.va recovers the identical current with I(br) on its own named branch
* instead of I(<a>), so this deck must produce the same waveform and shares one QSPICE
* reference. FlowCurrentAccumulator's "resistive contributions only" limitation is what this
* exercises; if only the port probe is fixed, only that gate goes green.
V1 s   gnd SIN(0 1 1meg)
Rs s   a   50
M1 a   gnd out selfprobe_rc
.tran 2n 2u
.end
