* NTC thermistor resistance against temperature, read from a table.
*
* VT imposes a temperature (in kelvin) on the thermistor's thermal port; V1 puts 1 V across
* the device, so I(V1) is exactly the conductance and 1/|I(V1)| is the resistance. Sweeping VT
* walks the table, interpolating between its rows.
*
*   cargo run -p va-cli -- sim circuits/thermistor_rt.net --model models/thermistor.va \
*       --report V1 --plot docs/examples/thermistor_rt.svg
*
* Expected, straight off the table: 5000 ohm at 298.15 K and 1400 ohm at 333.15 K, with the
* rows in between interpolated linearly.
V1 a   gnd DC 1
VT tmp gnd DC 298.15
X1 a   gnd tmp thermistor
.dc VT 233.15 373.15 1.0
.end
